US07547667B1
A reaction flask equipped with a Dean Stark trap was charged with 2,6-dimethyl cyclohehanone (190 g), ethylene glycol (155 g), p-toluenesulfonic acid (2 g) and toluene (200 mL). The reaction mass was heated to reflux (110-130° C.). Water (27 mL) was collected in the Dean Stark trap. When no water was recovered, the reaction mass was cooled to an ambient temperature, neutralized with 10% aqueous sodium carbonate (100 mL) and washed with brine. Purification by vacuum distillation afforded 6,10-dimethyl-1,4-dioxaspiro[4,5]decane (225 g), which had a boiling point of 93° C. at a pressure of 22 mmHg.

reactant | ethylene glycol | 155 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 6,10-dimethyl-1,4-dioxaspiro[4,5]decane | 225 g | CC1C2(OCCO2)C(CCC1)C | C10H18O2
